US05576336
3-(4-[2-Phenylethyl]1,2,3,6-tetrahydropyridin-1-yl)methylindole
To a solution of 4-(2-phenylethyl)-1,2,3,6-tetrahydropyridine (prepared by the method of Oediger and Joop, Leibigs. Ann. Chem., 972, 764, 21) (400 mg, 2.2 mmol) in dry toluene (10ml) was added gramine (370 mg, 2.1 mmol) and the reaction heated at reflux overnight. The solvent was evaporated and the residue chromatographed on silica gel eluting with 2% Et3N/EtOAc to give a solid which was recrystallised twice from toluene to yield the title compound as a white solid (160 mg, 25%), m.p. 138-140° C.; (Found: C, 83.59; H, 7.71; N, 8.89. C22H24N2 requires C, 83.50; H, 7.64; N, 8.85%); δH (CDCl3) 2.13 (2H, br s, tetrahydropyridinyl CH2), 2.25 (2H, t, J 8.3 Hz, PhCH2CH2), 2.64-2.73 (4H, m, tetrahydropyridinyl CH2, PhCH2CH2), 3.05 (2H, br s, tetrahydropyridinyl CH2), 3.81 (2H, s, NCH2Ar), 5.40 (1H, br s, tetrahydropyridyl CH), 7.11-7.28 (8H, m, ArH), 7.36 (1H, d, J 7.9 Hz, ArH), 7.72 (1H, d, J 7.9 Hz, ArH), and 8.12 (1H, br s, NH); m/z (CI+, NH3) 317 (M+1)+.

reactant | 4-(2-phenylethyl)-1,2,3,6-tetrahydropyridine | C1(=CC=CC=C1)CCC=1CCNCC1 | C13H17N
reactant | gramine | 2.1 mmol, 370 mg | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
solvent | toluene | 10ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[2-Phenylethyl]1,2,3,6-tetrahydropyridin-1-yl)methylindole | 160 mg, 25% | C1(=CC=CC=C1)CCC=1CCN(CC1)CC1=CNC2=CC=CC=C12 | C22H24N2
